US07250418B2
Preparation of N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine
To a solution of benzyl (3R,4S)-3-{[3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate (1.35 g) in ethanol (26 ml) was added 1,4 cyclohexadiene (2.45 ml, 10 eq.) and 10% Pd/C (1.5 g). The reaction mixture stirred 2 h, was filtered through celite and concentrated. Purification via MPLC chromatography eluting with 2–6% methanol/CH2Cl2 with 0.5% ammonium hydroxide afforded the title compound as an amber oil (870 mg, 87%): 1H NMR (400 MHz, CDCl3) δ) 7.41, 6.64, 5.34–5.32, 4.52, 4.05, 3.97, 3.68, 3.53, 3.43, 3.22, 3.15, 2.92, 2.70, 2.46, 2.29, 1.32–1.25, 1.14; IR (liq.) 2972, 2935, 2408 (w), 2238 (w), 2019 (w), 1971 (w), 1596, 1563 (s), 1499, 1474 (s), 1426, 1394, 1304 (s), 1251, 1042 cm−1 HRMS (ESI) calcd for C21H31N5O2+H1 386.2556. found 386.2544.

reactant | benzyl (3R,4S)-3-{[3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | 1.35 g | C(C)C=1C(=NC(=C(N1)C=1C(=NC(=CC1)OC)C)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1 | C29H37N5O4
reactant | 1,4 cyclohexadiene | 2.45 ml, 10 eq. | C1=CCC=CC1 | C6H8
solvent | ethanol | 26 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | 870 mg, 87% | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C21H31N5O2
